US08865736B2
3-[(9-Cyanononyl)oxy]benzenecarboxamide
Sodium cyanide (60 mg, 1.22 mmol, 1.3 equiv.) was added to a solution of 9-[3-(aminocarbonyl)phenoxy]nonyl 4-methylbenzenesulfonate (407 mg, 0.94 mmol, 1 equiv.) in water (10 ml) and 95% EtOH (8 ml), and the reaction mixture was stirred at 75° C. for 2 days. After cooling at r.t., the mixture was diluted with water (10 ml) and extracted with CH2Cl2 (3×10 ml). The combined organic extracts were dried (MgSO4) and the solvent was removed under reduced pressure. The crude residue was purified by column chromatography on silica eluting with EtOAc/hexane (50%), to give the desired compound as white solid (57 mg, 21%), mp 96-97° C. HPLC-MS (method 1): m/z 289 [M+H]+, Rt=4.16 min.

reactant | Sodium cyanide | 1.22 mmol, 60 mg, 1.3 equiv. | [C-]#N.[Na+]
reactant | 9-[3-(aminocarbonyl)phenoxy]nonyl 4-methylbenzenesulfonate | 0.94 mmol, 407 mg, 1 equiv. | CC1=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCOC1=CC(=CC=C1)C(=O)N | C23H31NO5S
solvent | water | 10 ml | O | H2O
solvent | EtOH | 8 ml | CCO | C2H6O
solvent | water | 10 ml | O | H2O
product | 3-[(9-Cyanononyl)oxy]benzenecarboxamide | 57 mg, 21% | C(#N)CCCCCCCCCOC=1C=C(C=CC1)C(=O)N | C17H24N2O2
